US07759373B2
A mixture of methyl 2-amino-3-(5-chlorothiophen-2-yl)-3-oxopropionate hydrochloride (6.0 g), 4-fluorobenzoyl chloride (4.23 g) and sodium hydrogen carbonate (11.2 g) in ethyl acetate (100 ml) and water (10 ml) was stirred at room temperature for 2 hours. The organic layer was collected, washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure. The resulting residue was triturated with diethyl ether to obtain methyl 3-(5-chlorothiophen-2-yl)-2-(4-fluorobenzoylamino)-3-oxopropionate (7.3 g) as colorless powder.

reactant | methyl 2-amino-3-(5-chlorothiophen-2-yl)-3-oxopropionate hydrochloride | 6.0 g | Cl.NC(C(=O)OC)C(=O)C=1SC(=CC1)Cl
reactant | 4-fluorobenzoyl chloride | 4.23 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | sodium hydrogen carbonate | 11.2 g | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
product | methyl 3-(5-chlorothiophen-2-yl)-2-(4-fluorobenzoylamino)-3-oxopropionate | 7.3 g | ClC1=CC=C(S1)C(C(C(=O)OC)NC(C1=CC=C(C=C1)F)=O)=O | C15H11ClFNO4S
